US04117151
(a) Preparation of 4-(3-pyridylsulfonamido)-benzoyl chloride
Into a 500 ml-flask fitted with a mechanical stirrer and a condenser were introduced 26 g (0.093 mol) of 4-(3-pyridylsulfonamido)-benzoic acid and 180 ml of thionyl chloride, after which a few drops of dimethylformamide were added as catalyst. The mixture was progressively heated to boiling, which was maintained for three hours.

reactant | 4-(3-pyridylsulfonamido)-benzoic acid | 0.093 mol, 26 g | N1=CC(=CC=C1)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C12H10N2O4S
reactant | thionyl chloride | 180 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | 4-(3-pyridylsulfonamido)-benzoyl chloride | N1=CC(=CC=C1)S(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C12H9ClN2O3S
